US08013003B2
To a solution of 3-aminopentane-1,5-diol (2.38 g, 20 mmol) (Helv. Chim. Acta 1964, 47(8), 2145-2153) and triethylamine (4 ml), in dichloromethane (30 ml), was slowly added, at 0° C., a solution of [2,1,3]-benzoxadiazole-5-carboxylic acid chloride (1.82 g, 10 mmol), in dichloromethane (20 ml), and the mixture stirred for 1 h. A mixture of methanol (30 ml) and 4N potassium carbonate solution (20 ml) was added and stirred for 3 h. The mixture was evaporated onto silica gel and purified by silica gel chromatography eluting with ethyl acetate/chloroform/methanol (60:30:10) to give, after crystallization from dichloromethane/ethyl acetate/diethyl ether, N-(1,5-dihydroxypentan-3-yl)-[2,1,3]-benzoxadiazole-5-carboxamide as a white solid (Mp: 87-88° C.). N-(1,5-Dihydroxypentan-3-yl)-[2,1,3]-benzoxadiazole-5-carboxamide (0.5 g, 1.9 mmol), suspended in chloroform (20 ml), was warmed to 45° C. and periodinane (Dess Martin reagent; 1.6 g) added and stirred for 1 h. The reaction mixture was evaporated onto silica gel and purified by chromatography, eluting with ethyl acetate/chloroform (60:40) to give N-(2-hydroxytetrahydro-2H-pyran-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide (0.12 g) as a white solid after trituration with diethyl ether and as the less polar of two components (Rf: 0.55). Mp=91-92° C., 1H NMR (300 MHz, CDCl3) δ 8.22 (s, 1H); 7.96-7.81 (m, 2H); 7.10-7.00 and 6.40-6.05 (m, 2H); 4.65-4.40 (m, 1H); 4.15-3.70 (m, 2H) and 2.15-0.60 ppm (m, 4H).

reactant | 3-aminopentane-1,5-diol | 20 mmol, 2.38 g | NC(CCO)CCO | C5H13NO2
reactant | [2,1,3]-benzoxadiazole-5-carboxylic acid chloride | 10 mmol, 1.82 g | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
reactant | potassium carbonate | 4N, 20 ml | C([O-])([O-])=O.[K+].[K+]
reactant | N-(1,5-Dihydroxypentan-3-yl)-[2,1,3]-benzoxadiazole-5-carboxamide | 1.9 mmol, 0.5 g | OCCC(CCO)NC(=O)C1=CC=2C(=NON2)C=C1 | C12H15N3O4
reactant | Dess Martin reagent | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 30 ml | CO | CH4O
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | N-(2-hydroxytetrahydro-2H-pyran-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide | 0.12 g | OC1OCCC(C1)NC(=O)C1=CC=2C(=NON2)C=C1 | C12H13N3O4
